US04978665
2-ethyl-4-chloro-5-(3-n-propoxy-4-methoxybenzylamino)-6-nitro-3(2H)pyridazinone (Compound No. 24)
A mixture comprising 500 mg of 4-chloro-5-(3-n-propoxy-4-methoxybenzylamino)-6-nitro-3(2H)pyridazinone (Compound No. 22) prepared in Example 2, 634 mg of ethyl iodide, 562 mg of anhydrous potassium carbonate and 25 ml of methyl ethyl ketone, was refluxed under stirring for 1.5 hours. The solvent was distilled off under reduced pressure, and water was added to the residue thereby obtained and the mixture was extracted with diethyl ether. The extract was washed with a saturated sodium chloride aqueous solution and dried over sodium sulfate. Then, the solvent was distilled off, and the residual oily substance thereby obtained was crystallized from a solvent mixture of diethyl ether-n-hexane, to obtain 473 mg of the above identified compound having a melting point of from 76° to 77° C. as yellow crystals.

reactant | 4-chloro-5-(3-n-propoxy-4-methoxybenzylamino)-6-nitro-3(2H)pyridazinone | 500 mg | ClC=1C(NN=C(C1NCC1=CC(=C(C=C1)OC)OCCC)[N+](=O)[O-])=O | C15H17ClN4O5
reactant | ethyl iodide | 634 mg | C(C)I | C2H5I
reactant | potassium carbonate | 562 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 25 ml | C(C)C(=O)C | C4H8O
product | 2-ethyl-4-chloro-5-(3-n-propoxy-4-methoxybenzylamino)-6-nitro-3(2H)pyridazinone | C(C)N1N=C(C(=C(C1=O)Cl)NCC1=CC(=C(C=C1)OC)OCCC)[N+](=O)[O-] | C17H21ClN4O5
